data/mechanisms/records/IMS9-EQ9.20b.json
{"mechanism_id": "IMS9-EQ9.20b", "species": [{"species_id": "methylcyclohexanol_molecular_ion", "mapped_smiles": "[OH+:7][CH:1]1[CH:2]([CH3:8])[CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ring_opened_c6_radical_ion", "mapped_smiles": "[CH2:6][CH2:5][CH2:4][CH2:3][CH:2]([CH3:8])[CH:1]=[OH+:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_oxonium_86", "mapped_smiles": "[CH2:4][CH2:3][CH:2]([CH3:8])[CH:1]=[OH+:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethene_neutral_c5c6", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_oxonium_58", "mapped_smiles": "[CH3:8][CH:2][CH:1]=[OH+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethene_neutral_c3c4", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylcyclohexanol_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_c6_radical_ion"]}, {"state_id": "state_loss_ethene_1", "species_ids": ["distonic_oxonium_86", "ethene_neutral_c5c6"]}, {"state_id": "state_loss_ethene_2", "species_ids": ["distonic_oxonium_58", "ethene_neutral_c5c6", "ethene_neutral_c3c4"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [7, 1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_loss_ethene_1", "from_state": "state_ring_opened", "to_state": "state_loss_ethene_1", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 4]}, "target": {"type": "bond", "atom_maps": [6, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_loss_ethene_2", "from_state": "state_loss_ethene_1", "to_state": "state_loss_ethene_2", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 2]}, "target": {"type": "bond", "atom_maps": [4, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs for this branch on the molecular ion (the solid fishhook from the odd electron on O -- the same arc that serves the Eq. 9.19 branch -- and a dashed fishhook from the C1-C6 ring bond into the C1-O bond); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Ring alpha-cleavage is intramolecular, so the product is a single ring-opened distonic ion of unchanged m/z 114, not two fragments."}, {"evidence_id": "evidence_step_2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_ethene_1", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs on the folded ring-opened ion, in DASHED lines (the dashed pair is the second branch of the same structure) (a fishhook from the odd electron into the forming pi bond and a fishhook from the breaking C-C sigma bond into that same pi bond); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). The odd electron at C6 forms the C6=C5 pi bond while the C5-C4 bond is homolysed, expelling ethene and leaving the distonic m/z 86 ion, as labelled '- C2H4' on the page."}, {"evidence_id": "evidence_step_3", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_ethene_2", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs on the m/z 86 ion (a fishhook from the odd electron into the forming pi bond and a fishhook from the breaking C-C sigma bond into that same pi bond); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). The odd electron at C4 forms the C4=C3 pi bond while the C3-C2 bond is homolysed, expelling a second ethene and leaving the distonic m/z 58 ion (CH3-.CH-CH=OH+). The first ethene is carried along as a spectator so the step stays atom-balanced."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 114.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_114", "species_id": "methylcyclohexanol_molecular_ion", "step_id": null, "observed_mz": 114.1039, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_86", "species_id": "distonic_oxonium_86", "step_id": "step_alpha_loss_ethene_1", "observed_mz": 86.0726, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}, {"peak_id": "peak_58", "species_id": "distonic_oxonium_58", "step_id": "step_alpha_loss_ethene_2", "observed_mz": 58.0413, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
